US06723735B1
A suspension of N-(5-bromo-3-nitropyridin-2-yl)-N-[3-(pyridin-3-yl)phenyl]amine (3.7 g, 10 mmol), sodium sulphide nonahydrate (7.2 g, 30 mmol) and ammonium chloride (1.6 g, 30 mmol) in methanol (15 ml) was heated under reflux for 90 minutes. The reaction was cooled, evaporated to dryness and the residue suspended in ethyl acetate (200 ml). This was washed with water, brine, dried over anhydrous sodium sulphate, filtered and evaporated to dryness to afford 5-bromo-N2-[3-(pyridin-3-yl)phenyl]-pyridine-2,3-diamine as a yellow oil (3.4 g, 100%) which was used without purification; m/z (ES+) 341 and 343 (M++H).

reactant | N-(5-bromo-3-nitropyridin-2-yl)-N-[3-(pyridin-3-yl)phenyl]amine | 10 mmol, 3.7 g | BrC=1C=C(C(=NC1)NC1=CC(=CC=C1)C=1C=NC=CC1)[N+](=O)[O-] | C16H11BrN4O2
reactant | sodium sulphide nonahydrate | 30 mmol, 7.2 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | ammonium chloride | 30 mmol, 1.6 g | [Cl-].[NH4+]
solvent | methanol | 15 ml | CO | CH4O
product | 5-bromo-N2-[3-(pyridin-3-yl)phenyl]-pyridine-2,3-diamine | 3.4 g, 100% | BrC=1C=C(C(=NC1)NC1=CC(=CC=C1)C=1C=NC=CC1)N | C16H13BrN4
